US04795751
A mixture of 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (1.25 g), 2-methylpiperazine (2.0 g), and pyridine (13 ml) was heated at 105°-110° C. for 1 hour with stirring. The reaction mixture was evaporated to dryness under reduced pressure and water was added to the residue. The mixture was extracted with chloroform and the extract was dried. After evaporation of chloroform, ethanol was added to the residue. The resulting crystals were filtered and recrystallized from chloroform-ethanol to give 5-amino-1-cyclopropyl-6,8-difluoro-7-(3-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (1.4 g), m.p. 251°-253° C.

reactant | 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1.25 g | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1CC1)C(=O)O)=O | C13H9F3N2O3
reactant | 2-methylpiperazine | 2.0 g | CC1NCCNC1 | C5H12N2
solvent | pyridine | 13 ml | N1=CC=CC=C1 | C5H5N
product | 5-amino-1-cyclopropyl-6,8-difluoro-7-(3-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1.4 g | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC(NCC1)C)F)C1CC1)C(=O)O)=O | C18H20F2N4O3
